US05945382
3.7 g (0.015 mol) of 1-(3,5-dichlorophenyl)-2-methylthio-1-ethanone are prepared by addition at 0° C. of 1.23 g (0.017 mol) of sodium methanethiolate in solution in 10 ml of methanol to 4.28 g (0.016 mol) of 2-bromo-1-(3,5-dichlorophenyl)-1-ethanone obtained above.

reactant | sodium methanethiolate | 0.017 mol, 1.23 g | C[S-].[Na+]
reactant | 2-bromo-1-(3,5-dichlorophenyl)-1-ethanone | 0.016 mol, 4.28 g | BrCC(=O)C1=CC(=CC(=C1)Cl)Cl | C8H5BrCl2O
solvent | methanol | 10 ml | CO | CH4O
product | 1-(3,5-dichlorophenyl)-2-methylthio-1-ethanone | 0.015 mol, 3.7 g | ClC=1C=C(C=C(C1)Cl)C(CSC)=O | C9H8Cl2OS
